US07495103B2
4-Propyl-3-nitroaniline (1.69 g, 9.4 mmol) was dissolved in pyridine (30 mL) with stirring. Boc anhydride (2.05 g, 9.4 mmol) was added. The mixture was stirred and heated at reflux for 1 h before the solvent was removed in vacuo. The oil obtained was re-dissolved in CH2Cl2 (300 mL) and washed with water (300 mL) and brine (300 mL), dried over Na2SO4, filtered, and concentrated. The crude oil that contained both mono- and bis-acylated nitro products was purified by column chromatography (0-10% CH2Cl2-MeOH) to afford (3-nitro-4-propyl-phenyl)-carbamic acid tert-butyl ester (2.3 g, 87%).

reactant | 4-Propyl-3-nitroaniline | 9.4 mmol, 1.69 g | C(CC)C1=C(C=C(N)C=C1)[N+](=O)[O-] | C9H12N2O2
reactant | Boc anhydride | 9.4 mmol, 2.05 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | (3-nitro-4-propyl-phenyl)-carbamic acid tert-butyl ester | 2.3 g, 87% | C(C)(C)(C)OC(NC1=CC(=C(C=C1)CCC)[N+](=O)[O-])=O | C14H20N2O4
